US05935972
5-Thiazol-2-yl-benzofuran-7-carbaldehyde (200 mg) as a pale yellow solid, m.p. 100-103°
From 5-Bromo-benzofuran-7-carbaldehyde (400 mg) and 2-trimethylstannanylthiazole (1.22 g).

reactant | 5-Bromo-benzofuran-7-carbaldehyde | 400 mg | BrC=1C=C(C2=C(C=CO2)C1)C=O | C9H5BrO2
reactant | 2-trimethylstannanylthiazole | 1.22 g | C[Sn](C=1SC=CN1)(C)C
product | 5-Thiazol-2-yl-benzofuran-7-carbaldehyde | S1C(=NC=C1)C=1C=C(C2=C(C=CO2)C1)C=O | C12H7NO2S
